US09102688B2
General Procedure 16: 7-Hydroxyquinolin-8-amine (Intermediate 28)
7-Hydroxyquinoline (1.1 g, 7.5 mmol) and 1-phenyl-1-methylhydrazine (0.92 g, 7.5 mmol) were combined and heated at 130° C. under nitrogen for 16 h. After cooling the solvent was partially evaporated, the crude product was purified by column chromatography with heptane/EtOAc (1:1) as the eluent to give the title compound (370 mg, 31%).

reactant | 7-Hydroxyquinoline | 7.5 mmol, 1.1 g | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
reactant | 1-phenyl-1-methylhydrazine | 7.5 mmol, 0.92 g | C1(=CC=CC=C1)N(N)C | C7H10N2
product | 7-Hydroxyquinolin-8-amine | 370 mg, 31% | OC1=CC=C2C=CC=NC2=C1N | C9H8N2O
